US07737145B2
The mixture of 4-bromophenol (10 g, 57.8 mmol), 4-fluorobenzaldehyde (7.17 g, 57.9 mmol), and potassium carbonate (12 g, 86.7 mmol) in DMF was heated at 170° C. for 4 hours. After cooling to ambient temperature, the reaction mixture was poured into ice-water. The resulting solid, 4-(4-bromophenoxy)benzaldehyde, was isolated by filtration (15 g, 94%), 1H NMR (CDCl3) δ 9.95 (s, 1H), 7.85 (d, 2H), 6.62 (d, 2H), 7.17 (d, 2H), 6.96 (d, 2H) ppm.

reactant | 4-bromophenol | 57.8 mmol, 10 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 4-fluorobenzaldehyde | 57.9 mmol, 7.17 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | potassium carbonate | 86.7 mmol, 12 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(4-bromophenoxy)benzaldehyde | BrC1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C13H9BrO2
